US04686217
(a) (S)-2,2,2-Trichloro-1-phenylethyl 2-(2,3-dichlorophenylmethylene)-3-oxobutanoate
(S)-2,2,2-Trichloro-1-phenylethyl 3-oxobutanoate (8.6 g 27.5 mmoles) and 2,3-dichlorobenzaldehyde (4.82 g, 27.5 mmoles) in dry benzene (100 ml) were heated at reflux for 5 hours with hexanoic acid (25 drops) and piperidine (8 drops) in a Dean and Stark apparatus. The solvent was evaporated and the residue dissolved in ethyl acetate (200 ml), washed with saturated sodium bicarbonate, 2% aqueous sodium bisulphite solution and brine, dried (MgSO4) and the solvent removed in vacuo. The sub-title compound was obtained as a yellow oil. HPLC and nmr indicate 2:1 mixture of geometric isomers.

reactant | (S)-2,2,2-Trichloro-1-phenylethyl 3-oxobutanoate | 27.5 mmoles, 8.6 g | O=C(CC(=O)O[C@H](C(Cl)(Cl)Cl)C1=CC=CC=C1)C | C12H11Cl3O3
reactant | 2,3-dichlorobenzaldehyde | 27.5 mmoles, 4.82 g | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | hexanoic acid | 25 drops | C(CCCCC)(=O)O | C6H12O2
catalyst | piperidine | 8 drops | N1CCCCC1 | C5H11N
product | (S)-2,2,2-Trichloro-1-phenylethyl 2-(2,3-dichlorophenylmethylene)-3-oxobutanoate | ClC1=C(C=CC=C1Cl)C=C(C(=O)O[C@H](C(Cl)(Cl)Cl)C1=CC=CC=C1)C(C)=O | C19H13Cl5O3
